US07825135B2
tert-Butyl 4-(aminomethyl)-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate
A solution of tert-butyl 4-cyano-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate (250 mg, 0.82 mmol) in methanol (20 mL) with triethylamine (1 mL) was reacted with Raney nickel (0.5 mL of 50% slurry in water) under 40 psi hydrogen for 5 hours. The catalyst was filtered off and washed thoroughly with methanol. Evaporation of the solvent afforded the desired product: tert-butyl 4-(aminomethyl)-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate: m/z (ES) 310 (M+H).

reactant | tert-butyl 4-cyano-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate | 0.82 mmol, 250 mg | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)F | C16H20FN3O2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Raney nickel | 0.5 mL | [Ni] | Ni
product | tert-Butyl 4-(aminomethyl)-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate | NCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)F | C16H24FN3O2
